US08193228B2
2-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethanamine
Hydrogen chloride (4 M in dioxane) (2 mL, 0.5 mmol) was added to a solution of 2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethanamine (20 mg, 0.03 mmol) in methanol (6 mL). After stirring at 60° C. for 1 h, volatiles were removed. The residue was purified by preparative HPLC eluting with 10-50% acetonitrile/water and lyophilized to afford the title compound. (M+H) found 367.

reactant | Hydrogen chloride | 0.5 mmol, 4 M, 2 mL | Cl | ClH
reactant | 2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethanamine | 0.03 mmol, 20 mg | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(N)C1=CC=C(C=C1)C1=NC=C(C=C1)F)(CC)C | C41H41FN4
solvent | methanol | 6 mL | CO | CH4O
product | 2-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethanamine | CC(CC=1N=C(NC1)CC(N)C1=CC=C(C=C1)C1=NC=C(C=C1)F)(CC)C | C22H27FN4
